US05219862
(2-methyl-6-n-propyl-8beta-ergolinyl)-acetamide
922 mg of (2-methyl-6-n-propyl-8beta-ergolinyl)-acetonitrile (3 mmol) is dissolved in 15 ml of a 30% solution of HBr in glacial acetic acid and stirred for 3 hours at room temperature. The mixture is mixed with ice, made alkaline with ammonia and shaken with ethyl acetate. The organic phases are dried and concentrated by evaporation. The residue is chromatographed on silica gel with acetone/methanol and crystallized from ethyl acetate, yield 421 mg (43% of theory), [α]D =-67° (0.5% in pyridine).

reactant | (2-methyl-6-n-propyl-8beta-ergolinyl)-acetonitrile | 3 mmol, 922 mg | CC1=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C(N1)C32)CC#N)CCC | C20H25N3
reactant | ammonia | N | H3N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (2-methyl-6-n-propyl-8beta-ergolinyl)-acetamide | CC1=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C(N1)C32)CC(=O)N)CCC | C20H27N3O
